US04477462
1-methyl-3,4-dichloro-5-(n-propylthio)pyrazole
A stirred mixture of 4.9 g (0.064 moles) propanthiol and 3 g (0.054 moles) potassium hydroxide in 50 ml dimethylsulfoxide was heated (at about 120° C.) for thirty minutes. Then 10 g (0.054 moles) 1-methyl-3,4,5-trichloropyrazole was added in one portion. Heating (at about 120° C.) of the stirred reaction mixture was continued for about 6 hours. The reaction mixture was allowed to cool. The reaction mixture was added to water (about 50 ml); the resulting mixture was extracted with ether. The etheral phase was separated, washed with water twice, and dried over magnesium sulfate. The solvent was then stripped. The product was distilled out at 124° C. under high vacuum and heat.

reactant | propanthiol | 0.064 moles, 4.9 g | C(CC)S | C3H8S
reactant | potassium hydroxide | 0.054 moles, 3 g | [OH-].[K+]
reactant | 1-methyl-3,4,5-trichloropyrazole | 0.054 moles, 10 g | CN1N=C(C(=C1Cl)Cl)Cl | C4H3Cl3N2
reactant | water | about 50 ml | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-methyl-3,4-dichloro-5-(n-propylthio)pyrazole | CN1N=C(C(=C1SCCC)Cl)Cl | C7H10Cl2N2S
